US04792208
4-[Di-(6-acetoxyhexyl)amino]benzaldehyde
N,N-Dimethylformamide (DMF, 250 mL) was added dropwise with stirring under nitrogen to phosphorous oxychloride at 0° C. The resulting orange solution was stirred for 2 hours, then a solution of 236 g (0163 mol) of N,N-di-(6-acetoxyhexyl)aniline in 250 mL of DMF was added slowly. The reaction mixture was stirred under nitrogen for 1 hour at 0° C. and then for 6 hours at 80° C. After cooling, the solution was poured onto 500 g of ice plus 200 g of sodium acetate, and the resulting mixture was extracted with dichloromethane (4×250 mL). The combined organic extracts were washed four times with 250 mL portions of water, dried over anhydrous sodium sulfate, and then concentrated at reduced pressure to produce a light brown oil. The oil was fractionally distilled in vacuo to yield 192 g (76%) of the title compound as a gold oil, bp 220°-260° C. (0.007 mm).

reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-di-(6-acetoxyhexyl)aniline | 236 g | C(C)(=O)OCCCCCCN(C1=CC=CC=C1)CCCCCCOC(C)=O | C22H35NO4
reactant | sodium acetate | 200 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 250 mL | CN(C=O)C | C3H7NO
solvent | N,N-Dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 4-[Di-(6-acetoxyhexyl)amino]benzaldehyde | 192 g, 76% | C(C)(=O)OCCCCCCN(C1=CC=C(C=O)C=C1)CCCCCCOC(C)=O | C23H35NO5
